US07138401B2
Step 3: 2,3,4,5-Tetramethyl-pyridine 1-oxide
4-Bromo-2,3,5-trimethyl-pyridine 1-oxide (2 g, 9.2 mmole) and catalytic tetrakis(triphenylphosphino)-palladium (80 mg, 4% by wt) in 20 mL of dry THF before treating with trimethylaluminum (2M in toluene, 15.2 mmole) under nitrogen. The solution was heated to reflux for 3 h, diluted with toluene (20 mL) before quenching the reaction with 4 mL of methanol followed by ammonium chloride (15 mmole). The mixture was refluxed for 2 h and filtered, while hot, on Celite. See J. Med. Chem. 1999, 42(12), 2064–2086. HPLC Rt: 4.183 min. 1H-NMR (CDCl3): δ 8.05 (s, 1H), 2.55 (s, 3H), 2.27 (s, 3H), 2.22 (s, 3H), 2.20 (s, 3H).

reactant | 4-Bromo-2,3,5-trimethyl-pyridine 1-oxide | 9.2 mmole, 2 g | BrC1=C(C(=[N+](C=C1C)[O-])C)C | C8H10BrNO
reactant | trimethylaluminum | 15.2 mmole, 2M | C[Al](C)C
reactant | ammonium chloride | 15 mmole | [Cl-].[NH4+]
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
catalyst | tetrakis(triphenylphosphino)-palladium | 80 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)(C1=CC=CC=C1)[Pd](P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)(P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
product | 2,3,4,5-Tetramethyl-pyridine 1-oxide | CC1=[N+](C=C(C(=C1C)C)C)[O-] | C9H13NO
